US07932270B2
To a mixture of 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid (110 mg, 0.30 mmol), (R)-5-(aminomethyl)pyrrolidin-2-one (52 mg, 0.46 mmol), HOBT (62 mg, 0.46 mmol), and HBTU (174 mg, 0.46 mg) in RB flask was added DMF and the mixture was stirred at r.t. for 1 h. LC/MS indicated the reaction was complete and the mixture was filtered and purified on RP-HPLC using a mixture of acetonitrile and water to give (R)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-((5-oxopyrrolidin-2-yl)methyl)nicotinamide (91.6 mg, 67%). LRMS (M+H+) m/z 458.1.

reactant | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid | 0.30 mmol, 110 mg | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)O)C=C1)NCCC1=CC(=CC=C1)F | C21H16FN3O2
reactant | (R)-5-(aminomethyl)pyrrolidin-2-one | 0.46 mmol, 52 mg | NC[C@H]1CCC(N1)=O | C5H10N2O
reactant | HOBT | 0.46 mmol, 62 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 174 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-((5-oxopyrrolidin-2-yl)methyl)nicotinamide | 91.6 mg, 67% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NC[C@@H]2NC(CC2)=O)C=C1)NCCC1=CC(=CC=C1)F | C26H24FN5O2
